US08084485B2
Step 1. 3-Methoxypropyl methanesulfonate
To a stirred solution of 3-methoxy-propan-1-ol (300 g, 3.3 mol) in anhydrous CH2Cl2 (3 L) was added triethylamine (790 mL, 5.7 mol). The mixture was cooled to 0° C. and methanesulfonyl chloride (376 mL, 4.8 mol) in anhydrous CH2Cl2 (1 L) added dropwise. After stirring for 2 h at rt, the mixture was washed with water and brine, dried and evaporated to give the crude product as an oil (540 g, yield 96%) that was used in the next step without purification. 1H NMR (400 MHz, CDCl3): δ 3.40-3.37 (t, J=6.0 Hz, 2H), 2.55-2.52 (t, J=6.0 Hz, 2H), 2.40 (s, 3H), 2.06 (s, 3H), 1.08-1.02 (m, 2H).

reactant | 3-methoxy-propan-1-ol | 3.3 mol, 300 g | COCCCO | C4H10O2
reactant | triethylamine | 5.7 mol, 790 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.8 mol, 376 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 3 L | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 L | C(Cl)Cl | CH2Cl2
product | 3-Methoxypropyl methanesulfonate | 540 g, yield 96% | CS(=O)(=O)OCCCOC | C5H12O4S
